US09163012B2
1-hydroxy-4-adamantyl 3-(pyridin-4-yl)pyrrolidine-1-carboxylate
A procedure analogous to that described in Example 19 Step 1 was followed using 1-hydroxy-4-adamantyl chloroformate solution and 3-(4-pyridyl)pyrrolidine. The title compound was isolated as a mixture of isomers. LC-MS Method 1 tR=0.90 min, m/z=343, 1H NMR (CD3OD) [selected resonances] 4.69 (s, 0.5H), 4.78 (s, 0.5H), 8.03 (d, 2H), 8.78 (d, 2H)

reactant | 1-hydroxy-4-adamantyl chloroformate | ClC(=O)OC1C2CC3(CC(CC1C3)C2)O | C11H15ClO3
reactant | 3-(4-pyridyl)pyrrolidine | N1=CC=C(C=C1)C1CNCC1 | C9H12N2
product | 1-hydroxy-4-adamantyl 3-(pyridin-4-yl)pyrrolidine-1-carboxylate | N1=CC=C(C=C1)C1CN(CC1)C(=O)OC1C2CC3(CC(CC1C3)C2)O | C20H26N2O3
